US07582625B2
(R)-2-[4-(2-carboxy-ethyl)-1,4′-bipiperidinyl-1′-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 2.6 mg (0.11 mmol) LiOH in 1 mL water was added to a solution of 50 mg (0.07 mmol) (R)-2-[4-(2-ethoxycarbonyl-ethyl)-1,4′-bipiperidinyl-1′-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 3 mL THF and the reaction mixture was stirred for 4 h at RT. The THF was eliminated in a nitrogen current and the crude product was purified by HPLC. The fractions containing the product were combined and lyophilised.

reactant | LiOH | 0.11 mmol, 2.6 mg | [Li+].[OH-]
reactant | (R)-2-[4-(2-ethoxycarbonyl-ethyl)-1,4′-bipiperidinyl-1′-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.07 mmol, 50 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCC(CC1)CCC(=O)OCC)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C41H57N5O7
solvent | water | 1 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (R)-2-[4-(2-carboxy-ethyl)-1,4′-bipiperidinyl-1′-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCC(CC1)CCC(=O)O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C39H53N5O7
